US07452893B2
Step 5: trans-4-(2-Fluoro-2-phenyl-ethoxy)-cyclohexyl-amine
To a solution of 0.7 g of racemic trans-2-[4-(2-fluoro-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione in 15 mL of THF and 15 mL of ethanol was added 0.3 mL of hydrazine hydrate and the mixture heated to reflux for 4 h, then 5 mL of 6N HCl was added and the reflux was continued for 1 h. The cooled mixture was concentrated under reduced pressure to remove ethanol and filtered. The filter pad was washed with 2×10 mL of dilute HCl and the combined filtrates basified to pH 10 with 20% sodium hydroxide and extracted with 3×25 mL portions of chloroform. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. Further drying under vacuum gave 0.4 g of product as an oil. MS (m+1)=238.3.

reactant | racemic trans-2-[4-(2-fluoro-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 0.7 g | FC(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H22FNO3
reactant | hydrazine hydrate | 0.3 mL | O.NN
reactant | HCl | 6N, 5 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | trans-4-(2-Fluoro-2-phenyl-ethoxy)-cyclohexyl-amine | 0.4 g | FC(CO[C@@H]1CC[C@H](CC1)N)C1=CC=CC=C1 | C14H20FNO
